US06177423B1
3-Bromo-1,8-naphthalic anhydride
Bromine (8.2 g, 51.3 mmol) was added to a solution of 1,8-naphthalic anhydride (10.0 g, 50.5 mmol) in 70% nitric acid (200 mL) at 25° C. The mixture was stirred at 70° C. for 2 hours and cooled overnight. The solids that separated were filtered, washed with water, and dried to give 2.0 g of the title compound (Reference: J. C. S., 1938:1764-1767).

reactant | Bromine | 51.3 mmol, 8.2 g | BrBr | Br2
reactant | 1,8-naphthalic anhydride | 50.5 mmol, 10.0 g | C=1C=C2C=CC=C3C2=C(C1)C(=O)OC3=O | C12H6O3
solvent | nitric acid | 200 mL | [N+](=O)(O)[O-] | HNO3
product | 3-Bromo-1,8-naphthalic anhydride | 2.0 g | C1=CC2=CC(=CC3=C2C(=C1)C(=O)OC3=O)Br | C12H5BrO3
